US07087626B2
4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline-6-carboxylic acid methyl ester
To a mixture of sodium acetate (0.84 g, 10.2 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II):CH2Cl2 (42 mg, 0.05 mmol) in methanol (40 mL) is added 6-bromo-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline (1.0 g, 2.56 mmol). The mixture is heated at 90° C. under 68 psi carbon monoxide for 24 h. The mixture is cooled, filtered, and concentrated in vacuo. The product is partitioned between ethyl acetate and: water. The organic layer is dried over sodium sulfate and concentrated in vacuo. The residue is chromatographed on SiO2 (dichloromethane to 2% methanol/dichloromethane) to yield a solid, 918 mg (97%).

reactant | sodium acetate | 10.2 mmol, 0.84 g | C(C)(=O)[O-].[Na+]
reactant | CH2Cl2 | 0.05 mmol, 42 mg | C(Cl)Cl | CH2Cl2
reactant | 6-bromo-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline | 2.56 mmol, 1.0 g | BrC=1C=C2C(=CC=NC2=CC1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C20H15BrN4
reactant | carbon monoxide | [C]=O | CO
solvent | methanol | 40 mL | CO | CH4O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline-6-carboxylic acid methyl ester | COC(=O)C=1C=C2C(=CC=NC2=CC1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C22H18N4O2
